US05849911
40g) 1-[4-(Pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane hydrochloride
3.4 g (5.5 mmol) of 1-[4-(pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane in 100 ml of 4N hydrogen chloride in dioxane (Aldrich) and 10 ml of methanol are stirred at room temperature for 2 hours. The solvents are removed; dioxane is added twice to the residue and evaporated off. The title compound is obtained in the form of a viscous oil, with the compound crystallising out on trituration with ether. M.p.: 194°-198° C. TLC: Rt =0.35 (methylene chloride/methanol 10:1). HPLC20-100 : tRet =9.77.

reactant | 1-[4-(pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | 5.5 mmol, 3.4 g | N1=C(C=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)NC(=O)OC(C)(C)C | C33H44N6O6
reactant | methanol | 10 ml | CO | CH4O
reactant | hydrogen chloride | 4N, 100 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(Pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane hydrochloride | Cl.N1=C(C=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)N | InChI=1S/C28H36N6O4.ClH/c1-19(2)26(33-28(37)38-3)27(36)32-23(15-20-7-5-4-6-8-20)25(35)18-34(29)17-21-9-11-22(12-10-21)24-16-30-13-14-31-24;/h4-14,16,19,23,25-26,35H,15,17-18,29H2,1-3H3,(H,32,36)(H,33,37);1H/t23-,25-,26-;/m0./s1
